US05552427
2-(Dimethylaminomethylene)amino-1-(2-propenyl)imidazole (0.2 g) was dissolved in 6N hydrochloric acid (5 ml), and the solution was heated under reflux for 1 hour. The solvent was evaporated under reduced pressure, and the resulting residue was dissolved in aqueous saturated sodium carbonate solution (1 ml). The solution was concentrated under reduced pressure, the organic compounds were extracted with chloroform, and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (eluent: chloroform-methanol-ammonia water=20: 1:0.1) to give 2-amino-1-(2-propenyl)imidazole. This compound was dissolved in dichloromethane, and 4N hydrochloric acid-ethyl acetate (2 ml) was added to form its hydrochloric acid salt. The salt was recrystallized from acetonitrile to give 2-amino-1-(2-propenyl)imidazole hydrochloride (0.19 g, Yield: 71%) as pale yellow needles.

reactant | 2-(Dimethylaminomethylene)amino-1-(2-propenyl)imidazole | 0.2 g | CN(C)C=NC=1N(C=CN1)CC=C | C9H14N4
solvent | hydrochloric acid | 6N, 5 ml | Cl | ClH
product | 2-amino-1-(2-propenyl)imidazole | NC=1N(C=CN1)CC=C | C6H9N3
